US06794400B2
4-(Bicyclo[2.2.1]hept-5-en-2-yl)-1-(4-chlorobenzylidene)thiosemicarbazide
The title compound was prepared from a mixture of N1-bicyclo[2.2.1]hept-5-en-2-ylhydrazine-1-carbothioamide (100 mg, 0.56 mmol) and 4-chlorobenzaldehyde (79 mg, 0.56 mmol) similar to Example 3 and isolated as a white solid (68 mg, 40%). 1H NMR (CDCl3): 9.15 (s, 1H), 7.73 (s, 1H), 7.56 (d, J=8.4 Hz, 2H), 7.44 (s, 1H), 7.39 (d, J=8.7 Hz, 2H), 6.24-6.14 (m, 2H), 4.30-4.25 (m, 1H), 3.06 (s, 1H), 2.97 (s, 1H), 1.95-1.87 (m, 1H), 1.68 (d, J=9.0 Hz, 1H), 1.51 (d, J=9.0 Hz, 1H), 1.45-1.39(m, 1H).

reactant | N1-bicyclo[2.2.1]hept-5-en-2-ylhydrazine-1-carbothioamide | 0.56 mmol, 100 mg | C12C(CC(C=C1)C2)NC(=S)NN | C8H13N3S
reactant | 4-chlorobenzaldehyde | 0.56 mmol, 79 mg | ClC1=CC=C(C=O)C=C1 | C7H5ClO
product | 4-(Bicyclo[2.2.1]hept-5-en-2-yl)-1-(4-chlorobenzylidene)thiosemicarbazide | C12C(CC(C=C1)C2)NC(NN=CC2=CC=C(C=C2)Cl)=S | C15H16ClN3S
